US04507498
A mixture of 7.6 g of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester, 25 ml 1,3-dibromopropane and 2.0 g of anhydrous potassium carbonate in 200 ml of anhydrous acetone was stirred at reflux. Additional 2.0 g portions of potassium carbonate were added at 3, 7, 21, 47 and 55 hours. After a total reflux time of 78 hours, the reaction mixture was filtered and the filtrate was concentrated in vacuo to yield 4-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]butanoic acid ethyl ester as a slightly impure oil.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester | 7.6 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
reactant | 1,3-dibromopropane | 25 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 4-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]butanoic acid ethyl ester | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCBr)CCC)=O | C20H29BrO5
